US20010007877A1
a) 4-[1-phenylsulfonyl-3-(2-(tert-butoxycarbonylamino)ethyl)indol-5-yl]benzophenone
A flask containing 4-bromobenzophenone (0.26 g, 1.00 mmol), diboron pinacol ester (0.28 g, 1.10 mmol), PdCl2(dppf).CH2Cl2 (0.025g, 0.03 mmol), and acetic acid, potassium salt (0.30 g, 3.01 mmol) was flushed with argon and diluted with dry dimethylformamide (6 mL). The mixture was heated to 80° C. under argon where it stirred for 1.5 h. The solution was allowed to cool to room temperature, at which time 1-phenylsulfonyl-3-[ 2-(tert-butoxycarbonyl-amino)ethyl]-5-bromoindole (0.24 g, 0.50 mmol), PdCl2(dppf).CH2Cl2 (0.025 g, 0.03 mmol), and cesium carbonate (1.63 g, 5.00 mmol) in water (2 mL) were added. The mixture was heated to 80° C. where it stirred for 3 h. It was cooled to room temperature, diluted with saturated sodium bicarbonate (10 mL), and extracted with diethyl ether (10 mL). The organic layer was washed with water (10 mL) and brine (10 mL), dried over MgSO4, filtered, and concentrated to a yellow residue. Purification by flash chromatography (silica gel, step gradient, 25-33% ethyl acetate/hexane) furnished the product (0.13 g, 45%) as a colorless resin.

reactant | 4-bromobenzophenone | 1.00 mmol, 0.26 g | BrC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9BrO
reactant | diboron pinacol ester | 1.10 mmol, 0.28 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CH2Cl2 | 0.03 mmol, 0.025g | C(Cl)Cl | CH2Cl2
reactant | potassium | 3.01 mmol, 0.30 g | [K] | K
reactant | 1-phenylsulfonyl-3-[ 2-(tert-butoxycarbonyl-amino)ethyl]-5-bromoindole | 0.50 mmol, 0.24 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)Br)CCNC(=O)OC(C)(C)C | C21H23BrN2O4S
reactant | CH2Cl2 | 0.03 mmol, 0.025 g | C(Cl)Cl | CH2Cl2
reactant | cesium carbonate | 5.00 mmol, 1.63 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | water | 2 mL | O | H2O
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[1-phenylsulfonyl-3-(2-(tert-butoxycarbonylamino)ethyl)indol-5-yl]benzophenone | 0.13 g, 45% | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)C1=CC=C(C(=O)C2=CC=CC=C2)C=C1)CCNC(=O)OC(C)(C)C | C34H32N2O5S
